US05750531
Synthesis of 2-(N-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride
After N-methylaniline(0.70 ml, 6.3 mmol) was added to a mixture solution of 4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline(0.90 g, 3.0 mmol) and dimethylformamide(5 ml), 0.48 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | N-methylaniline | 6.3 mmol, 0.70 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline | 3.0 mmol, 0.90 g | C1N(CCC2=CC=CC=C12)C1=NC(=NC=2CCCCC12)Cl | C17H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(N-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride | 0.48 g, Yield: 39% | Cl.CN(C1=NC=2CCCCC2C(=N1)N1CC2=CC=CC=C2CC1)C1=CC=CC=C1 | InChI=1S/C24H26N4.ClH/c1-27(20-11-3-2-4-12-20)24-25-22-14-8-7-13-21(22)23(26-24)28-16-15-18-9-5-6-10-19(18)17-28;/h2-6,9-12H,7-8,13-17H2,1H3;1H
